US04315933
A suspension of 6.9 g (30 mmol) of 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid and 400 ml of dichloromethane is stirred at room temperature and 16.6 ml (120 mmol) of triethylamine is added followed by 11.3 ml (90 mmol) of chlorotrimethylsilane. The mixture is stirred at room temperature for 30 min and 3.2 ml (30 mmol) of methoxyacetyl chloride in 10 ml of dichloromethane is added dropwise at 0°. The resulting mixture is stirred for 18 hrs at room temperature and 15 ml of water and 50 ml of methanol are added. The solid is filtered, washed, and dried to give 8.2 g of 2-[4-(methoxyacetylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid. An additional 3.2 g is obtained by evaporation of the filtrate. After recrystallization from dimethyl sulfoxide-water, the material has mp 297°-300° dec.

reactant | 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid | 30 mmol, 6.9 g | NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C11H9N3O3
reactant | triethylamine | 120 mmol, 16.6 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 90 mmol, 11.3 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | methoxyacetyl chloride | 30 mmol, 3.2 ml | COCC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | 2-[4-(methoxyacetylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid | 8.2 g | COCC(=O)NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C14H13N3O5
